US07084139B2
N-[1-((2R)-2-{(3S)-3-[[(6-Chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoyl)piperidin-3-yl]benzamide
A solution of tert-butyl (2R)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoate (0.017 g) in DCM (0.5 ml) was treated with trifluoroacetic acid (0.5 ml) and stirred at room temperature for 2 h. The mixture was then concentrated under reduced pressure to give an oil which was subsequently treated with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.01 g), HOBT (0.007 g) and triethylamine (0.020 ml). After stirring at room temperature for 1 h, N-piperidin-3-ylbenzamide (0.010 g) was added and stirring was continued for 16 h. The reaction mixture was partitioned between DCM and water. The organic extract was concentrated under reduced pressure and the residue purified using SPE (silica, eluting with cyclohexane:ethyl acetate 3:1, 1:1, 1:3, ethyl acetate) to give the title compound (0.012 g) as a pale yellow gum.

reactant | tert-butyl (2R)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoate | 0.017 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@@H](C(=O)OC(C)(C)C)C)=O)C | C22H27ClN2O5S
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.01 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.007 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-piperidin-3-ylbenzamide | 0.010 g | N1CC(CCC1)NC(C1=CC=CC=C1)=O | C12H16N2O
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.020 ml | C(C)N(CC)CC | C6H15N
product | N-[1-((2R)-2-{(3S)-3-[[(6-Chloro-2-naphthyl)sulfonyl](methyl)amino]-2-oxopyrrolidin-1-yl}propanoyl)piperidin-3-yl]benzamide | 0.012 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@@H](C(=O)N1CC(CCC1)NC(C1=CC=CC=C1)=O)C)=O)C | C30H33ClN4O5S
